*****************************************************************
* NXP PSMN013-30MLC
*
* Polarity N-Channel
* Ratings 30V/1.355000E-002OHMS/39.2443912982634A
*
* Date Created Wed Jun 13 07:36:59 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013-30MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00983803437957699 TC=0.00523928135263217,3.22138875341218E-06
RBD 9 4 0.00457318018143415 TC=0.00523928135263217,3.22138875341218E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.36838600731039e-10
RG 1 2 1.68051376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	315.3
+ -1	272.5
+ -0.5	225.5
+ -0.2	198.2
+ -0.1	191.1
+ 0	181.1
+ 0.1	165.1
+ 0.2	156.1
+ 0.5	128.2
+ 1	99.1
+ 2	73.5
+ 3	62.8
+ 4	56.4
+ 5	52
+ 6	49
+ 8	44.6
+ 10	41.9
+ 12	39.9
+ 15	37.5
+ 20	34.5



.MODEL MINT NMOS(Vto=2.0397154693591 Kp=8.047254e+001 Nfs=430000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=3.11301638841593e-13
+ N=1 M=0.68 VJ=0.99 Fc=0.5 Cjo=5.714e-10 Tt=1.341608e-08)

.ENDS

